US04623650
3-Bromo-4-fluoro-2-hydroxy-1-nitrobenzene
A solution of 3-bromo-2,4-difluoro-1-nitrobenzene (10.5 g, 44 mmol) in dimethyl sulfoxide (85 ml) was stirred at ambient temperature. A solution of potassium hydroxide (14.1 g, 251 mmol) in water (21 ml) was added dropwise over 15 minutes. The black reaction mixture was stirred at ambient temperature for 16 hours. The reaction mixture was then poured onto water (200 ml) and three ether extractions (100 ml) were performed. The aqueous layer was acidified with concentrated hydrochloric acid and extracted three times with ether (100 ml). The combined organic layers were dried over magnesium sulfate and filtered. Solvent was removed in vacuo to give a yellow solid (9.7 g, 93% yield). Recrystallization from isopropyl ether afforded an analytical sample: m.p. 65°-66° C. NMR (CDCl3, 60 MHz): 8.1 (dd, 1H, J=10, 5 Hz), 6.8 (dd, 1H, J=10, 8 Hz)

reactant | 3-bromo-2,4-difluoro-1-nitrobenzene | 44 mmol, 10.5 g | BrC=1C(=C(C=CC1F)[N+](=O)[O-])F | C6H2BrF2NO2
reactant | potassium hydroxide | 251 mmol, 14.1 g | [OH-].[K+]
reactant | ether | CCOCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 85 ml | CS(=O)C | C2H6OS
solvent | water | 21 ml | O | H2O
product | 3-Bromo-4-fluoro-2-hydroxy-1-nitrobenzene | 9.7 g, 93% yield | BrC=1C(=C(C=CC1F)[N+](=O)[O-])O | C6H3BrFNO3
